US04070177
Preparation of α-[2-cyano-5 -(2-chloro-4-trifluoromethyl phenoxy)phenoxy]propion amide
A 10 g of methyl-α-[2-cyano-5-(2-chloro-4-trifluoromethyl phenoxy) phenoxy]propionate was dissolved in 20 ml of benzene. The solution was cooled at 0° C and 10 g of 28% ammonia water was added dropwise to react them at room temperature for 2 hours. After the reaction, the benzene phase was separated and was washed with water. The benzene was distilled off and the product was recrystallized from methanol to obtain 5.5 g of the object compound having a melting point of 134° to 137° C.

reactant | methyl-α-[2-cyano-5-(2-chloro-4-trifluoromethyl phenoxy) phenoxy]propionate | 10 g | COC(C(C)OC1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)C#N)=O | C18H13ClF3NO4
reactant | ammonia water | 10 g | O.N
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | α-[2-cyano-5 -(2-chloro-4-trifluoromethyl phenoxy)phenoxy]propion amide | 5.5 g | C(#N)C1=C(OC(C(=O)N)C)C=C(C=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl | C17H12ClF3N2O3
